US05434165
2-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-1-nitronaphthalene
2-Ethoxy-1-nitronaphthalene and (1-azabicyclo[3.3.0]octan-5-yl)methylamine were reacted in the same manner as in Example 1 to obtain the titled compound in a yield of 39.1%.

reactant | 2-Ethoxy-1-nitronaphthalene | C(C)OC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C12H11NO3
reactant | (1-azabicyclo[3.3.0]octan-5-yl)methylamine | N12CCCC2(CCC1)CN | C8H16N2
product | 2-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-1-nitronaphthalene | yield of 39.1% | N12CCCC2(CCC1)CNC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C18H21N3O2
